US07569578B2
(±)-3-(7-Ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
A suspension of (±)-3-(7-ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester (0.94 g, 1.81 mmol) in 1:1 tetrahydrofuran/methanol (30 mL) at room temperature was treated with a solution of lithium hydroxide monohydrate in water (10 mL). The solution was stirred at room temperature for 1 hand the solvents evaporated. The resultant residue was diluted with water (10 mL) and the pH adjusted to ca. 1 with 1N hydrochloric acid. The resultant white suspension was stored at 4° C. overnight and the product was collected by filtration, washed by a small amount of water and dried in vacuo for several hours to give 0.82 g (90%) of the desired product. LC/MS: tR=1.57 min, 505.29 (MH)+.

reactant | (±)-3-(7-ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | 1.81 mmol, 0.94 g | COC(C(CC=1C=C2C(=NNC2=C(C1)CC)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C28H34N6O4
reactant | tetrahydrofuran methanol | 30 mL | O1CCCC1.CO
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
solvent | water | 10 mL | O | H2O
product | (±)-3-(7-Ethyl-3-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.82 g, 90% | C(C)C=1C=C(C=C2C(=NNC12)C)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H32N6O4
